data/rdb19/train.csv
rxn,smiles,ea
3926,[C:13]([C:14]([C:15]([H:16])[H:17])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]=[C:4]([H:11])[H:12])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:16])[H:17],22.303122202050872
2024,[C:11]([C:12]([C:13]([H:14])[C:15]([C:16]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:17])([H:18])[H:19].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[C:15]([C:16]([H:24])([H:25])[H:26])([H:22])[H:23])[H:20])([H:17])([H:18])[H:19].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])([H:10])[H:21])[H:8])([H:6])[H:7],29.52837688132422
4765,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([C:8]([H:19])([H:20])[H:21])([O:9][C:10](=[O:11])[C:12]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([H:2])([H:3])([H:4])[C:8]([H:19])([H:20])[H:21].[C:5]([C:6]([C:7]([O:9][C:10](=[O:11])[C:12]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15],54.90667779889191
3657,[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:29])([H:10])[H:11])([H:7])([H:8])[H:9],20.77124423661735
851,[C:19]([C:20]([C:21]([H:22])[O:23][C:24]([H:30])([H:31])[H:32])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20](=[C:21]([H:22])[O:23][C:24]([H:30])([H:31])[H:32])[H:28])([H:25])([H:26])[H:27].[C:1]([H:8])([H:9])([H:10])[H:29].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12],83.35123257967643
5574,[C:11]([C:12]([C:13]([H:14])[H:15])([N:16]([C:17](=[O:18])[H:24])[H:23])[H:22])([H:19])([H:20])[H:21].[C:1](=[C:2]([N:3]([C:4](=[O:5])[H:10])[H:9])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[H:15])[N:16]([C:17](=[O:18])[H:24])[H:23])([H:19])([H:20])[H:21].[C:1](=[C:2]([N:3]([C:4]([O:5][H:22])[H:10])[H:9])[H:8])([H:6])[H:7],38.313252840715
1006,[C:14]([O:15][C:16](=[O:17])[C:18](=[C:19]([H:24])[H:25])[C:20]([H:26])([H:27])[H:28])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[O:8][H:13])([H:9])([H:10])[H:11].[H:12][C:19]([C:18]([C:16]([O:15][C:14]([H:21])([H:22])[H:23])=[O:17])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25],25.036477552028373
2119,[C:11]([C:12]([C:13]([H:14])[H:15])([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])([H:22])([H:23])[H:24].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2]([O:3][C:13]([C:12]([C:11]([H:22])([H:23])[H:24])([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])([H:14])[H:15])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],27.079500798659865
2381,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:24])([H:25])[H:26])([c:12]1[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]1[H:31])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][C:14]1([H:28])[C:13]([H:27])=[C:12]([C:10]([C:9]([C:8]([H:18])([H:19])[H:20])([H:21])[H:22])([C:11]([H:24])([H:25])[H:26])[H:23])[C:17]([H:31])=[C:16]([H:30])[C:15]1[H:29],42.04819730267627
4541,[C:13]([C:14]([C:15]([H:16])[H:17])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[H:17])[N:18]([C:19](=[O:20])[H:26])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]=[O:5])([H:7])([H:8])[H:9].[O:6]([H:12])[H:24],50.7608715678798
4501,[C:13]([C:14]([C:15]([H:16])[H:17])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[H:17])[O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:10])([H:11])[H:25])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9],31.32474799657939
4940,[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19][C:20](=[O:21])[H:32])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([O:5][C:6]([H:12])([H:13])[H:14])[H:31])([H:10])[H:11])([H:7])([H:8])[H:9],27.14353094721445
